Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
doxycycline
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ ___ male h/o HFrEF (EF 40% 
in ___, NSTEMI (___), DM2,HTN, HLD, asthma, BPH s/pTURP, 
CKD3 who presents from rehab with acute onset of respiratory 
distress and altered mental status.
Patient was recently admitted at ___ for bilateral leg and 
left shoulder pain and urinary incontinencem found to have UTI 
and chronic rotator cuff arthropathy and discharged to rehab. 
History was obtained with a phone interpreter. Patient reports 
having a cough for about a week. He also reports having fever. 
He says many people at the rehab were sick with respiratory 
symptoms. 
He denies any pain, other than numbness and tingling in his 
legs. He denies abdominal pain. He endorses muscle pain from 
knee down, but not generalized muscle aches.
In the ED patient was seen by resp therapy in the ED: placed on 
bipap w/ 2lpm for increase WOB, duo neb given. Took pt off bipap 
and placed on 2lpm NC. flu swab done and sent to lab, was 
negative.

In ED initial VS: T 97.9, HR 105, BP 173/79, RR 32, 99% 
non-rebreather

Labs significant for:  
___ blood gas: pH 7.39, pCO2 32, pO2 86, ___ 104 23
----------<159
4.3 18 1.6

6.2>11.3/34.9<163

Ca 8.3 Mg 2.0 P 3.6

ALT 38 AST 69 AP 363 T Bili 0.9 Alb 2.8

Trop 0.06

Patient was given:  Zosyn IV, Levofloxacin 750mg IV

Imaging notable for:  
CXR: ?PNA on RLL, pleural effusion LLL
CT torso w/o contrast: moderate bilateral pleural effusion

Consults: none

VS prior to transfer:  HR 102, BP 145/53, RR 22, 100% 2L NC

On arrival to the MICU, patient reports feeling better in terms 
of his breathing. He continues to complain of cough.
 
REVIEW OF SYSTEMS: negative unless stated above.
 
Past Medical History:
- Choledocholithiasis, no intervention
- HLD
- HTN
- Anemia
- DM2
- CAD with h/o NSTEMI
- CKD3
- prostate CA s/p TURP in ___
 
Social History:
___
Family History:
non-contributory.
 
Physical Exam:
=====================
ADMISSION EXAM
=====================
VITALS: T 99.2 BP 150/54 HR 100 RR 23 99/RA
GENERAL: Alert, oriented, no acute distress  
HEENT:Sclera anicteric, MMM, oropharynx clear  
NECK:supple, JVP not elevated, no LAD  
LUNGS:decreased breath sounds on bilateral lung basis. no 
wheezes appreciated.
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD:soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: A&Ox3 

=====================
DISCHARGE EXAM
=====================
VITALS: 
24 HR Data (last updated ___ @ 1530)
    Temp: 97.7 (Tm 98.8), BP: 133/59 (106-142/40-62), HR: 71 
(69-83), RR: 18 (___), O2 sat: 96% (93-98), O2 delivery: Ra, 
Wt: 339.95 lb/154.2 kg  

GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic, extraocular muscles intact. 
Sclera anicteric and without injection. Moist mucous membranes, 
good dentition. Oropharynx is clear.
NECK: Supple. JVP not appreciated
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: normal respiratory effort without supraclavicular 
retraction. Auscultation notable for mild diffuse expiratory 
rhonchi and wheezing
ABDOMEN: +BS, NT, ND
EXTREMITIES: No edema
NEUROLOGIC: Moving all extremities with purpose.
 
Pertinent Results:
===================
ADMISSION LABS
===================
___ 01:10AM BLOOD WBC-6.2 RBC-4.53* Hgb-11.3* Hct-34.9* 
MCV-77* MCH-24.9* MCHC-32.4 RDW-16.3* RDWSD-45.0 Plt ___
___ 01:10AM BLOOD Neuts-69.4 Lymphs-14.6* Monos-13.3* 
Eos-1.5 Baso-0.7 Im ___ AbsNeut-4.27 AbsLymp-0.90* 
AbsMono-0.82* AbsEos-0.09 AbsBaso-0.04
___ 01:10AM BLOOD ___ PTT-32.2 ___
___ 01:10AM BLOOD Glucose-159* UreaN-23* Creat-1.6* Na-137 
K-4.3 Cl-104 HCO3-18* AnGap-15
___ 01:10AM BLOOD ALT-38 AST-69* AlkPhos-363* TotBili-0.9
___ 01:10AM BLOOD cTropnT-0.___ 01:10AM BLOOD Albumin-2.8* Calcium-8.3* Phos-3.6 Mg-2.0
___ 01:18AM BLOOD ___ pO2-86 pCO2-32* pH-7.39 
calTCO2-20* Base XS--4
___ 01:18AM BLOOD Lactate-2.3*

===================
PERTINENT RESULTS
===================

___ 08:00AM BLOOD CK-MB-5 cTropnT-0.13*
___ 03:00PM BLOOD CK-MB-6 cTropnT-0.13* proBNP-7635*
___ 07:50AM BLOOD CK-MB-7 cTropnT-0.15*
___ 05:15PM BLOOD cTropnT-0.13*
___ 05:15PM BLOOD PEP-NO SPECIFI FreeKap-139.6* 
FreeLam-89.8* Fr K/L-1.55 IgG-1817* IgA-444* IgM-65 IFE-NO 
MONOCLO
___ 01:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:18AM BLOOD Lactate-2.3*
___ 08:35AM BLOOD Lactate-2.4*
___ 03:07PM BLOOD Lactate-1.8

DISCHARGE LABS
==============

___ 06:55AM BLOOD WBC-4.5 RBC-4.10* Hgb-10.3* Hct-31.6* 
MCV-77* MCH-25.1* MCHC-32.6 RDW-16.0* RDWSD-43.8 Plt ___
___ 07:25AM BLOOD ___ PTT-38.5* ___
___ 06:55AM BLOOD Glucose-101* UreaN-35* Creat-2.0* Na-140 
K-4.5 Cl-105 HCO3-21* AnGap-14
___ 06:55AM BLOOD Calcium-8.0* Phos-3.9 Mg-2.2

MICROBIOLOGY
============

___ 1:10 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 1:45 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:00 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 8:00 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

IMAGING
=======

___ CXR
Ill-defined opacities in bilateral lung bases could represent 
aspiration or pneumonia. 

___ CT CHEST/ABDOMEN/PELVIS W/O

IMPRESSION: 
  
1. Moderate bilateral pleural effusions. 
2. Cholelithiasis without gallbladder distention or gallbladder 
wall edema. 
3. 7 mm nodule in left lobe of the thyroid.  Given the size of 
this nodule, no 
additional imaging follow-up is recommended. 
4. Bowel is unremarkable without evidence of obstruction.  The 
appendix is 
normal. 

 
Brief Hospital Course:
___ ___ male h/o HTN, HLD, DM2, CAD s/p 
NSTEMI, CKD3 who presents from SNF with acute onset of 
respiratory distress and altered mental status.

===================
ACTIVE ISSUES
=================== 

# Acute Hypoxic Respiratory Failure:
# Possible aspiration:
Patient presents with acute onset respiratory distress.  Chest 
x-ray showed ill-defined opacities with subsequent CT chest 
demonstrating pleural effusions but no clear infiltrate.  The 
patient was initially admitted to the intensive care unit and 
started on vancomycin and Zosyn, subsequently narrowed to 
levofloxacin.  He initially required BiPAP for respiratory 
support.  Patient improved rapidly on BiPAP, remained afebrile 
and hemodynamically stable.  His white blood count remained 
within normal limits.  In this setting, antibiotics were 
subsequently stopped given low suspicion for bacterial 
pneumonia. Infectious work up remained negative. This 
presentation was likely multifactorial with possible 
contribution of an aspiration event in the setting of his 
underlying chronic obstructive pulmonary disease and possible 
recurrent flash pulmonary edema.  Speech and swallow was 
consulted and found no overt signs of aspiration.  The patient's 
diet was subsequently advanced with good tolerance. Monitoring 
for possible aspiration following discharge is recommended. 

#Possible Acute on chronic heart failure
#HFrEF (most recent EF 40% in ___ at outside hospital for)
#H/o CAD with prior NSTEMI and s/p CABG
During recent hospital stay at ___ developed 
hypertensive urgency complicated by flash pulmonary edema in the 
setting of underlying heart failure. Concern for recurrent 
episode of flash pulmonary edema this admission given severe 
shortness of breath on admission which rapidly improved on 
BiPAP. His respiratory status improved rapidly as above. He 
received IV diuresis, which was complicated by worsening renal 
function as below. Diuresis was subsequently stopped with 
stabilization of his volume status and renal function. His home 
metoprolol was continued. Amlodipine was stopped given his 
history of HFrEF. Give renal dysfunction, no ACE inhibitor was 
started. Instead, the patient was started in Isurdil/Hydral. He 
tolerated his blood pressure regimen well without recurrent 
episodes of severe hypertension or hypotension. Aspirin was 
continued (albeit at the lower dose of 81mg daily given low 
likelihood that possible benefits of a higher dose would 
outweigh the increased bleeding risk). His home regimen did not 
include a statin. No statin was started given his age and low 
likelihood that any possible benefits would outweigh the side 
effects.  
Discharge weigth: 154.2 lbs 

#COPD
Per ___ medical records, he has a history of COPD.  Appears to 
be only on albuterol as outpatient. COPD was possibly 
contributing to his respiratory dysfunction on admission, but 
was thought to not be severe enough to start systemic steroids 
given concerns about his volume status in the setting of his 
heart failure. The patient was treated with nebulizers and an 
inhaled steroid, as well as supportive treatment with 
guaifenesin and nasal fluticasone. 

___ on CKD stage 3 (per his outside hospital records, baseline 
appears to be around 2)
Cr 1.6 on admission, uptrending to 2.3 during this admission in 
the setting of diuresis as detailed above.  Subsequently 
improved with diuresis and stabilized around 2.0. His home lasix 
was restarted on discharge. 
Discharge Creatinine: 2.0

===================
CHRONIC ISSUES
=================== 
# Choledocholithiasis: Patient has known choledocholithiasis and 
has not had any interventions performed. CT torso showed 
cholelithiasis without gallbladder distention or gallbladder 
wall edema.

# Anemia: Stable at baseline.

===================
TRANSITIONAL ISSUES
=================== 
[] Monitor for possible aspiration events. Consider aspiration 
precautions
[] Discharge weigth: 154.2 lbs 
[] Heart failure regimen changed to HydrALAZINE 10 mg PO Q8H, 
Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY, 
Metoprolol Succinate XL 25 mg PO DAILY
[] Home lasix (20 mg) was restarted on discharge. Please monitor 
BP and electrolytes (discharge K 4.5, Mg 2.2)
[] Discontinued amlodipine given history of heart failure with 
reduced ejection fraction
[] Not restarted on ACE / ___ given renal dysfunction
[] Changed aspirin to 81mg daily from 325mg daily and not 
started on statin as side effects would likely outweigh possible 
benefits
[] Please ensure patient has cardiology and nephrology follow up

# CONTACT: ___, ___ ___
# CODE: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN Shortness of breath 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
4. Senna 8.6 mg PO QHS 
5. calcium carbonate-simethicone 1,000-60 mg oral TID:PRN 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
7. Furosemide 10 mg PO DAILY 
8. loratadine-pseudoephedrine ___ mg oral DAILY 
9. Ranitidine 150 mg PO BID 
10. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Isosorbide Dinitrate 10 mg PO TID Duration: 1 Dose 
TAKE ONE MORE DOSE TODAY (___) AT ___  
2.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
START TAKING THIS MEDICATION TOMORROW (___)  
3.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath  
5.  Artificial Tears ___ DROP BOTH EYES Q4H  
6.  Aspirin 81 mg PO DAILY  
7.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
8.  Furosemide 20 mg PO DAILY  
9.  HydrALAZINE 10 mg PO Q8H  
10.  loratadine-pseudoephedrine ___ mg oral DAILY  
11.  Metoprolol Succinate XL 25 mg PO DAILY  
12.  Ranitidine 150 mg PO DAILY  
13.  Senna 17.2 mg PO QHS  
14.  Simethicone 120 mg PO BID:PRN indigestion  
15.  Triamcinolone Acetonide 0.025% Ointment 2 Appl TP TID:PRN 
itching  
16.  Ursodiol 300 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSES
=================
#Acute Hypoxic Respiratory Failure
#Possible aspiration
#Possible Acute on chronic heart failure
#HFrEF (most recent EF 40% in ___ at outside hospital for)
#H/o CAD with prior NSTEMI and s/p CABG
#COPD
___ on CKD stage 3

SECONDARY DIAGNOSES
===================
#Choledocholithiasis
#Anemia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- you had trouble breathing and were coughing, which was most 
likely provoked by an aspiration event as well as too much 
fluids in your lungs (which can happen if your heart is weak)
- you were given medications to get rid of the fluid in your 
lungs
- the medications to treat your heart were adjusted to prevent 
further episodes
- you were monitored in the hospital. there were no signs of an 
infection. 

What should I do after discharge?
- take all of your medications as prescribed
- follow up with your doctors as detailed below, specifically 
your cardiologist and your nephrologist

All the best,

Your ___ care team
 
Followup Instructions:
___